US07625932B2
Preparation of 5-Cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid
Dissolve the 5-cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (37 mg, 0.10 mmol, prepared in example Pz-2) in 2 mL of EtOH, add 1 mL of 2N aqueous NaOH and heat to reflux. After 20 minutes cool the reaction mixture in an ice-bath and add 2 mL of 1N aqueous HCl. Stir 10 minutes and filter, rinsing with 1 mL of EtOH followed by 2 mL of water. Vacuum-dry at 50° C. overnight to give the title compound. Yield=7.0 mg (21%). MS(ES−, m/e)=283 (M+−COOH).

reactant | 5-cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 0.10 mmol, 37 mg | C(C)OC(=O)C=1N(N=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)C | C21H16N4O2
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | 5-Cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid | C(#N)C=1C(=C(N(N1)C)C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C19H12N4O2
